US08252820B2
B. (2-Hydroxymethyl-5-methylphenyl)-carbamic acid tert-butyl ester
To a solution of (2-amino-4-methylphenyl)-methanol (3.2 g, 23.4 mmol) in THF (40 mL) is added di-tert-butyl dicarbonate (6.54 g, 28.0 mmol) and the solution is stirred at 60° C. for 5 h. The solvent is evaporated, and water is added. It is then extracted with EtOAc, washed with water, dried with MgSO4 and concentrated. The residue is purified to give the title compound.

reactant | (2-amino-4-methylphenyl)-methanol | 23.4 mmol, 3.2 g | NC1=C(C=CC(=C1)C)CO | C8H11NO
reactant | di-tert-butyl dicarbonate | 28.0 mmol, 6.54 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (2-Hydroxymethyl-5-methylphenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)C)CO)=O | C13H19NO3
